US09163012B2
1-carbamoyl-4-adamantyl 3-(5-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)pyrimidin-2-yl)pyrrolidine-1-carboxylate
A solution of 4-((3-(5-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)pyrimidin-2-yl)pyrrolidine-1-carbonyl)oxy)adamantane-1-carboxylic acid (20 mg, 0.04 mmol), HOBt (11.3 mg, 0.08 mmol), EDCl (16.5 mg, 0.08 mmol) and i-Pr2NEt (27 mg, 0.21 mmol) in dichloromethane (5 mL) was stirred overnight under ammonia gas. The reaction mixture was concentrated to afford an oil which was purified by basic preparative HPLC to afford two isomers:

reactant | 4-((3-(5-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)pyrimidin-2-yl)pyrrolidine-1-carbonyl)oxy)adamantane-1-carboxylic acid | 0.04 mmol, 20 mg | CN1C(C=C(C=C1)C=1C=NC(=NC1)C1CN(CC1)C(=O)OC1C2CC3(CC(CC1C3)C2)C(=O)O)=O | C26H30N4O5
reactant | HOBt | 0.08 mmol, 11.3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 0.08 mmol, 16.5 mg | CCN=C=NCCCN(C)C.Cl
reactant | i-Pr2NEt | 0.21 mmol, 27 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-carbamoyl-4-adamantyl 3-(5-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)pyrimidin-2-yl)pyrrolidine-1-carboxylate | CN1C(C=C(C=C1)C=1C=NC(=NC1)C1CN(CC1)C(=O)OC1C2CC3(CC(CC1C3)C2)C(N)=O)=O | C26H31N5O4
